### PR TITLE
[Merged by Bors] - feat: constructible sets

### PR DESCRIPTION
**Pull request by YaelDillies**
Define constructible sets, which are morally sets in a topological space which we can make out of finite unions and intersections of open and closed sets.

From GrowthInGroups (LeanCamCombi)

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/Constructible.lean [hunk 1]
```diff
@@ -0,0 +1,300 @@
...
+Authors: Yaël Dillies
+-/
+import Mathlib.Order.BooleanSubalgebra
+import Mathlib.Topology.Spectral.Hom
+
+/-!
+# Constructible sets
+
+This file defines constructible sets, which are morally sets in a topological space which we can
+make out of unions and intersections of open and closed sets.
```
Comment (b-mehta) [inline Mathlib/Topology/Constructible.lean:13]:
```suggestion
make out of finite unions and finite intersections of open and closed sets.
```
important distinction!

Comment (YaelDillies) [reply Mathlib/Topology/Constructible.lean:13]: The "morally" is the fact that in full generality open and closed sets should be replaced by open retrocompact and complement of open retrocompact sets, which is a mouthful for what's ultimately a technicality

Comment (AntoineChambert-Loir) [reply Mathlib/Topology/Constructible.lean]: (It's not a technicality, it's fundamental: in the spectrum of a ring $R$, the complement of a retrocompact open set is of the form $V(f_1,\dots,f_r)$ for finitely many elements $f_i$ of $R$. Constructible sets would be uninteresting. The parallel with first order model theory is perfect: formulas are finite. Infinite logic exists, but it's a completely different story.)

File: Mathlib/Topology/Constructible.lean [hunk 2]
```diff
@@ -0,0 +1,303 @@
...
+-/
+
+open Set TopologicalSpace Topology
+
+variable {ι : Sort*} {α β : Type*} [TopologicalSpace α] [TopologicalSpace β] {f : α → β}
+  {s t U : Set α} {a : α}
+
+/-! ### Retrocompact sets -/
+
+/-- A retro-compact set is a set whose intersection with every compact open is compact.
```
Comment (AntoineChambert-Loir) [inline Mathlib/Topology/Constructible.lean:35]: choose between “retrocompact” and “retro-compact”. (I'd prefer the former…)

File: Mathlib/Topology/Constructible.lean [hunk 3]
```diff
@@ -0,0 +1,303 @@
...
+(noetherian schemes) all sets are retro-compact. -/
+@[stacks 005A]
+def IsRetroCompact (s : Set α) : Prop := ∀ ⦃U⦄, IsCompact U → IsOpen U → IsCompact (s ∩ U)
+
+@[simp] lemma IsRetroCompact.empty : IsRetroCompact (∅ : Set α) := by simp [IsRetroCompact]
+
+@[simp] lemma IsRetroCompact.singleton : IsRetroCompact {a} :=
+  fun _ _ _ ↦ Subsingleton.singleton_inter.isCompact
+
+lemma IsRetroCompact.union (hs : IsRetroCompact s) (ht : IsRetroCompact t) :
```
Comment (AntoineChambert-Loir) [inline Mathlib/Topology/Constructible.lean:47]: finite unions and finite intersections would be useful as well.

File: Mathlib/Topology/Constructible.lean [hunk 4]
```diff
@@ -0,0 +1,303 @@
...
+def IsConstructible (s : Set α) : Prop :=
+  s ∈ BooleanSubalgebra.closure {U | IsOpen U ∧ IsRetroCompact U}
+
+@[simp]
+protected lemma IsConstructible.empty : IsConstructible (∅ : Set α) := BooleanSubalgebra.bot_mem
+
+@[simp]
+protected lemma IsConstructible.univ : IsConstructible (univ : Set α) := BooleanSubalgebra.top_mem
+
+lemma IsConstructible.union : IsConstructible s → IsConstructible t → IsConstructible (s ∪ t) :=
```
Comment (AntoineChambert-Loir) [inline Mathlib/Topology/Constructible.lean:114]: can you add finite unions and finite intersections?

File: Mathlib/Topology/Constructible.lean [hunk 5]
```diff
@@ -0,0 +1,303 @@
...
+lemma IsConstructible.inter : IsConstructible s → IsConstructible t → IsConstructible (s ∩ t) :=
+  BooleanSubalgebra.inf_mem
+
+lemma IsConstructible.sdiff : IsConstructible s → IsConstructible t → IsConstructible (s \ t) :=
+  BooleanSubalgebra.sdiff_mem
+
+lemma IsConstructible.himp : IsConstructible s → IsConstructible t → IsConstructible (s ⇨ t) :=
+  BooleanSubalgebra.himp_mem
+
+@[simp] lemma isConstructible_compl : IsConstructible sᶜ ↔ IsConstructible s :=
```
Comment (AntoineChambert-Loir) [inline Mathlib/Topology/Constructible.lean:126]: shouldn't it be `isConstructible_compl_iff`?

File: Mathlib/Topology/Constructible.lean [hunk 6]
```diff
@@ -0,0 +1,303 @@
...
+import Mathlib.Topology.Spectral.Hom
+
+/-!
+# Constructible sets
+
+This file defines constructible sets, which are morally sets in a topological space which we can
+make out of finite unions and intersections of open and closed sets.
+
+Precisely, constructible sets are the boolean subalgebra generated by open retro-compact sets,
+where a set is retro-compact if its intersection with every compact open set is compact.
```
Comment (urkud) [inline Mathlib/Topology/Constructible.lean:16]: Please add a paragraph or two explaining why this notion is important.

File: Mathlib/Topology/Constructible.lean [hunk 7]
```diff
@@ -0,0 +1,303 @@
...
+    rw [← range_diff_image hf.injective]
+    exact (hfcomp.isConstructible hf.isClosed_range.isOpen_compl).of_compl.sdiff hs'
+
+section CompactSpace
+variable [CompactSpace α] {P : ∀ s : Set α, IsConstructible s → Prop} {b : ι → Set α}
+
+lemma IsRetroCompact.isCompact (hs : IsRetroCompact s) : IsCompact s := by
+  simpa using hs CompactSpace.isCompact_univ
+
+lemma TopologicalSpace.IsTopologicalBasis.isRetroCompact_iff_isCompact
```
Comment (AntoineChambert-Loir) [inline Mathlib/Topology/Constructible.lean:228]: Why working with a parameterized topological basis `b` and not a `Set (Set alpha)`?

File: Mathlib/Topology/Constructible.lean [hunk 8]
```diff
@@ -0,0 +1,303 @@
...
+  every compact open is compact.
+* `IsConstructible`: Predicate for a set to be constructible, namely to belong to the boolean
+  subalgebra generated by open retro-compact sets.
+* `IsLocallyConstructible`: Predicate for a set to be locally constructible, namely to be
+  partitionable along a finite open cover such that each of its parts is constructible.
+-/
+
+open Set TopologicalSpace Topology
+
+variable {ι : Sort*} {α β : Type*} [TopologicalSpace α] [TopologicalSpace β] {f : α → β}
```
Comment (urkud) [inline Mathlib/Topology/Constructible.lean:30]: AFAIR, we use `X`, `Y` for topological spaces now.

File: Mathlib/Topology/Constructible.lean (hunk 7 above)
Comment (AntoineChambert-Loir) [reply Mathlib/Topology/Constructible.lean:228]: (that should remove some `lift` subtleties below)

File: Mathlib/Topology/Constructible.lean [hunk 9]
```diff
@@ -0,0 +1,303 @@
...
+      ((basis.isConstructible compact_inter _).sdiff <| .biUnion hs fun i _ ↦
+        basis.isConstructible compact_inter _))
+    (union : ∀ s hs t ht, P s hs → P t ht → P (s ∪ t) (hs.union ht))
+    (s : Set α) (hs : IsConstructible s) : P s hs
+
+end CompactSpace
+
+/-! ### Locally constructible sets -/
+
+/-- A set in a topological space is locally constructible, if it can be partitioned along a finite
```
[the remark this answers is not in the document]
Comment (AntoineChambert-Loir) [reply Mathlib/Topology/Constructible.lean:261]: (with finite covers, constructible and locally constructible sets would coincide)

File: Mathlib/Topology/Constructible.lean [hunk 10]
```diff
@@ -0,0 +1,303 @@
...
+open cover such that every part is constructible -/
+@[stacks 005G]
+def IsLocallyConstructible (s : Set α) : Prop :=
+  ∃ F : Set (Set α), (∀ x, ∃ U ∈ F, x ∈ U) ∧ (∀ U ∈ F, IsOpen U) ∧ ∀ U ∈ F, IsConstructible (s ∩ U)
```
Comment (AntoineChambert-Loir) [inline Mathlib/Topology/Constructible.lean:265]: The letter `F` is fine but a script `U` would be clearer.

File: Mathlib/Topology/Constructible.lean [hunk 11]
```diff
@@ -0,0 +1,303 @@
...
+
+lemma IsLocallyConstructible.of_iUnion {ι : Sort*} {f : ι → Set α} (cover : ∀ x, ∃ i, x ∈ f i)
```
Comment (AntoineChambert-Loir) [inline Mathlib/Topology/Constructible.lean:267]: I'm surprised this lemma cannot be generalized to `IsConstructible s`.

File: Mathlib/Topology/Constructible.lean [hunk 12]
```diff
@@ -0,0 +1,303 @@
...
+lemma IsRetroCompact.isLocallyConstructible (hUopen : IsOpen U) (hUcomp : IsRetroCompact U) :
+    IsLocallyConstructible U := (hUcomp.isConstructible hUopen).isLocallyConstructible
+
+@[simp] protected lemma IsLocallyConstructible.empty : IsLocallyConstructible (∅ : Set α) :=
+  IsConstructible.empty.isLocallyConstructible
+
+@[simp] protected lemma IsLocallyConstructible.univ : IsLocallyConstructible (univ : Set α) :=
+  IsConstructible.univ.isLocallyConstructible
+
+lemma IsLocallyConstructible.inter :
```
Comment (AntoineChambert-Loir) [inline Mathlib/Topology/Constructible.lean:283]: can you add `union` and finite unions?

File: Mathlib/Topology/Constructible.lean (hunk 9 above)
[the remark this answers is not in the document]
Comment (YaelDillies) [reply Mathlib/Topology/Constructible.lean:261]: Yes of course!

File: Mathlib/Topology/Constructible.lean (hunk 11 above)
Comment (YaelDillies) [reply Mathlib/Topology/Constructible.lean:267]: This is just a restatement of `IsLocallyConstructible` in terms of `iUnion`. `ι` can be infinite

File: Mathlib/Topology/Constructible.lean (hunk 5 above)
Comment (YaelDillies) [reply Mathlib/Topology/Constructible.lean:126]: `_iff` and `_eq` are only necessary when ambiguity would otherwise arise

File: Mathlib/Topology/Constructible.lean (hunk 7 above)
Comment (YaelDillies) [reply Mathlib/Topology/Constructible.lean:254]: Waiting for @erdOne's input here

Comment (erdOne) [reply Mathlib/Topology/Constructible.lean:254]: I responded to Yael by DM and forgot to reply here.
Yes I agree that it is better to use `Set (Set alpha)`

Comment (YaelDillies) [reply Mathlib/Topology/Constructible.lean:254]: Note that some things got better, some things got worse. Likely, the best of both worlds would be to have two predicates for topological bases: one for set families, one for indexed families

File: Mathlib/Topology/Constructible.lean (hunk 1 above)
Comment (alreadydone) [reply Mathlib/Topology/Constructible.lean]: Any plans to connect to [IsLocallyClosed](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/Defs/Basic.html#IsLocallyClosed)? [Wikipedia](https://en.wikipedia.org/wiki/Constructible_set_(topology)#Definitions) claims that in a locally noetherian space (Mathlib only has noetherian spaces), all subsets are retrocompact, and the constructible sets coincide with finite unions of locally closed sets.

File: Mathlib/Topology/Constructible.lean [hunk 13]
```diff
@@ -0,0 +1,345 @@
...
+
+/-! ### Constructible sets -/
+
+/-- A constructible set is a set that can be written as the
+finite union/finite intersection/complement of open retrocompact sets.
+
+In other words, constructible sets form the boolean subalgebra generated by open retrocompact sets.
+-/
+def IsConstructible (s : Set X) : Prop :=
+  s ∈ BooleanSubalgebra.closure {U | IsOpen U ∧ IsRetroCompact U}
```
Comment (alreadydone) [inline Mathlib/Topology/Constructible.lean:132]: Do we have the fact that the Boolean algebra generated by a set `s` closed under `inf` consists of exactly finite union of sets of the form `a \ b` with a, b in s?
If we take `s` to be the set of open retrocompact sets, then we get the more familiar definition seen on Stacks and Wikipedia.

File: Mathlib/Topology/Constructible.lean [hunk 14]
```diff
@@ -0,0 +1,345 @@
...
+
+Precisely, constructible sets are the boolean subalgebra generated by open retro-compact sets,
+where a set is retro-compact if its intersection with every compact open set is compact.
+
+Constructible sets are useful because the image of a constructible set under a finitely presented
+morphism of schemes is a constructible set (and this is *not* true at the level of varieties).
+
+## Main declarations
+
+* `IsRetroCompact`: Predicate for a set to be retro-compact, namely to have its intersection with
```
Comment (alreadydone) [inline Mathlib/Topology/Constructible.lean:23]: Maybe IsRetro**c**ompact? cf. IsSemisimpleRing, Semiring etc.

File: Mathlib/Topology/Constructible.lean [hunk 15]
```diff
@@ -0,0 +1,345 @@
...
+  every compact open is compact.
+* `IsConstructible`: Predicate for a set to be constructible, namely to belong to the boolean
```
Comment (alreadydone) [inline Mathlib/Topology/Constructible.lean:25]: I feel that this word is too ambiguous to be exempt from a namespace. Is `Set.IsConstructible` appropriate? Or `TopologicalSpace.IsConstructible`?

File: Mathlib/Topology/Constructible.lean (hunk 1 above)
Comment (YaelDillies) [reply Mathlib/Topology/Constructible.lean]: No, no plan. Feel free to once it's merged!

File: Mathlib/Topology/Constructible.lean (hunk 13 above)
Comment (YaelDillies) [reply Mathlib/Topology/Constructible.lean:132]: No, see the recent Zulip topic about disjunction normal form

File: Mathlib/Topology/Constructible.lean (hunk 15 above)
Comment (YaelDillies) [reply Mathlib/Topology/Constructible.lean:25]: I know it's ambiguous, but I don't know which I should disambiguate it. Would `IsConstructibleSet` be fine?

Comment (alreadydone) [reply Mathlib/Topology/Constructible.lean:25]: That is sufficient to disambiguate from [constructible numbers](https://en.wikipedia.org/wiki/Constructible_number), but there is also the [set-theoretic notion](https://en.wikipedia.org/wiki/Constructible_universe#Constructible_sets_are_definable_from_the_ordinals) (which might be called ZFSet.IsConstructible if it ever makes into mathlib). That's why I suggest something about topology in the name.

Comment (YaelDillies) [reply Mathlib/Topology/Constructible.lean:25]: Ended up putting `IsConstructible` and `IsLocallyConstructible` (but not `IsRetrocompact`) under the `Topology` namespace

File: Mathlib/Topology/Constructible.lean [hunk 16]
```diff
@@ -0,0 +1,345 @@
...
+lemma IsRetroCompact.isCompact (hs : IsRetroCompact s) : IsCompact s := by
+  simpa using hs CompactSpace.isCompact_univ
+
+lemma TopologicalSpace.IsTopologicalBasis.isRetroCompact_iff_isCompact
+    (basis : IsTopologicalBasis B) (compact_inter : ∀ U ∈ B, ∀ V ∈ B, IsCompact (U ∩ V))
+    (hU : IsOpen U) : IsRetroCompact U ↔ IsCompact U := by
+  refine ⟨IsRetroCompact.isCompact, fun hU' {V} hV' hV ↦ ?_⟩
+  -- have hb (i : PLift ι) : IsCompact (b i.down) := by simpa using compact_inter i.down i.down
+  -- have := isCompact_open_iff_eq_finite_iUnion_of_isTopologicalBasis (b ∘ PLift.down)
+  --   (by simpa [PLift.down_surjective.range_comp] using basis) hb
```
[the remark this answers is not in the document]
Comment (YaelDillies) [reply Mathlib/Topology/Constructible.lean:260]: Leftover!

File: Mathlib/Topology/Constructible.lean [hunk 17]
```diff
@@ -0,0 +1,345 @@
...
+end CompactSpace
+
+/-! ### Locally constructible sets -/
+
+/-- A set in a topological space is locally constructible, if it can be partitioned along an open
+cover such that every part is constructible -/
+@[stacks 005G]
+def IsLocallyConstructible (s : Set X) : Prop :=
+  ∃ 𝒰 : Set (Set X),
+    (∀ x, ∃ U ∈ 𝒰, x ∈ U) ∧ (∀ U ∈ 𝒰, IsOpen U) ∧ ∀ U ∈ 𝒰, IsConstructible (s ∩ U)
```
[the remark this answers is not in the document]
Comment (YaelDillies) [reply Mathlib/Topology/Constructible.lean:295]: Unless I'm missing something, a subset `s` of an open set `U` is constructible iff it is constructible in `U`. Proof:
* If `s` constructible, say `s = U₁ ∩ C₁ ∪ ... ∪ Uₙ ∩ Cₙ`, then `s = (U₁ ∩ U) ∩ (C₁ ∩ U) ∪ ... ∪ (Uₙ ∩ U) ∩ (Cₙ ∩ U)` is constructible in `U`.
* If `s` constructible in `U`, say `s = (U₁ ∩ U) ∩ (C₁ ∩ U) ∪ ... ∪ (Uₙ ∩ U) ∩ (Cₙ ∩ U)`, then `s = (U₁ ∩ U) ∩ C₁ ∪ ... ∪ (Uₙ ∩ U) ∩ Cₙ` is constructible

[the remark this answers is not in the document]
Comment (YaelDillies) [reply Mathlib/Topology/Constructible.lean:295]: In fact, I have already proved this as `IsConstructible.image_of_isOpenEmbedding` and around. I guess I need some retrocompactness assumption. Is this what you had in mind?

[the remark this answers is not in the document]
Comment (alreadydone) [reply Mathlib/Topology/Constructible.lean]: Yeah I think when working under full generality, in your second bullet point the `U₁ ∩ U` and `U \ C₁` needs to be retrocompact, but being retrocompact in `U` may not imply being retrocompact in `X`.
If every open cover has a refinement by retrocompact opens, then I think your definition of IsLocallyConstructible agrees with the usual one. However, it seems a scheme doesn't necessarily satisfy this condition. Were you able to prove Chevalley (image of locally constructible under finite presented scheme morphism is locally constructible) in full generality using your definition?

[the remark this answers is not in the document]
Comment (YaelDillies) [reply Mathlib/Topology/Constructible.lean]: We proved Chevalley in full generality for constructible sets, but not for locally constructible sets, no

[the remark this answers is not in the document]
Comment (AntoineChambert-Loir) [reply Mathlib/Topology/Constructible.lean]: It really looks like it is Grothendieck's definition of a locally constructible set, see EGA, 0 III, 9.1.11.
It might not be if notation has a distinct meaning than the one I imagine.

http://www.numdam.org/item/PMIHES_1961__11__5_0.pdf

File: Mathlib/Topology/Constructible.lean (hunk 13 above)
Comment (AntoineChambert-Loir) [reply Mathlib/Topology/Constructible.lean]: This is 9.1.3 in Grothendieck, reference above, and should not be hard to formalize directly if needed.

File: Mathlib/Topology/Constructible.lean (hunk 17 above)
[the remark this answers is not in the document]
Comment (alreadydone) [reply Mathlib/Topology/Constructible.lean]: `s ↓∩ U` is a set in `s`, not in `U`.

[the remark this answers is not in the document]
Comment (YaelDillies) [reply Mathlib/Topology/Constructible.lean]: 🤦

File: Mathlib/Topology/Constructible.lean (hunk 13 above)
Comment (alreadydone) [reply Mathlib/Topology/Constructible.lean]: Indeed it's not hard; see #20251. It turns out I need that `s` contains top and bot as well.

File: Mathlib/Topology/Constructible.lean [hunk 18]
```diff
@@ -0,0 +1,430 @@
...
+@[stacks 005B]
+lemma IsRetrocompact.image_of_isEmbedding (hs : IsRetrocompact s) (hfemb : IsEmbedding f)
+    (hfcomp : IsRetrocompact (range f)) : IsRetrocompact (f '' s) := by
+  rintro U hUcomp hUopen
+  rw [← image_inter_preimage, ← hfemb.isCompact_iff]
+  refine hs ?_ <| hUopen.preimage hfemb.continuous
+  rw [hfemb.isCompact_iff, image_preimage_eq_inter_range, inter_comm]
+  exact hfcomp hUcomp hUopen
+
+@[stacks 005J] -- Extracted from the proof of `005J`
```
Comment (alreadydone) [inline Mathlib/Topology/Constructible.lean:138]:
```suggestion
@[stacks 005J "Extracted from the proof"]
```
same below

File: Mathlib/Topology/Constructible.lean [hunk 19]
```diff
@@ -0,0 +1,430 @@
...
+    rintro V hVcomp hVopen
+    rw [union_inter_distrib_right, ← image_inter_preimage]
+    exact ((hUcomp (hf.isCompact_preimage hVcomp) (hVopen.preimage hf.continuous)).image
+      hf.continuous).union <| hfcomp hVcomp hVopen
+  | union s hs t ht hs' ht' => rw [image_union]; exact hs'.union ht'
+  | compl s hs hs' =>
+    rw [← range_diff_image hf.injective]
+    exact (hfcomp.isConstructible hf.isClosed_range.isOpen_compl).of_compl.sdiff hs'
+
+lemma isConstructible_preimage_of_isOpenEmbedding {s : Set Y} (hf : IsOpenEmbedding f)
```
Comment (alreadydone) [inline Mathlib/Topology/Constructible.lean:282]: maybe?
```suggestion
lemma isConstructible_preimage_iff_of_isOpenEmbedding {s : Set Y} (hf : IsOpenEmbedding f)
```

**Review by alreadydone — APPROVED** [review]
LGTM
maintainer delegate

**Review by jcommelin — COMMENTED** [review]
bors d+

File: Mathlib/Topology/Constructible.lean [hunk 20]
```diff
@@ -0,0 +1,430 @@
...
+Precisely, constructible sets are the boolean subalgebra generated by open retrocompact sets,
+where a set is retrocompact if its intersection with every compact open set is compact.
+
+Constructible sets are useful because the image of a constructible set under a finitely presented
+morphism of schemes is a constructible set (and this is *not* true at the level of varieties).
+
+## Main declarations
+
+* `IsRetrocompact`: Predicate for a set to be retrocompact, namely to have its intersection with
+  every compact open is compact.
```
[the remark this answers is not in the document]
Comment (YaelDillies) [reply Mathlib/Topology/Constructible.lean:24]: I'm replacing "is" by "be"

**Comment by YaelDillies** [comment]
bors merge
